US05719296
Preparation of EtOCO-Phe (8)
To 4.96 g (30 mmole) phenylalanine was added 76 mL of 1:1 mixture of water and dioxane, followed by 4.15 g (30 mmole) of K2CO3. After 10 min 2.87 mL of ethyl chloroformate (30 mmole) in 10 mL of dioxane was added dropwise, and the reaction mixture was allowed to stir. The reaction was monitored by TLC, and once complete (ca. 2 hrs) the solvent was stripped by rotary evaporation. The residue was reconstituted in 50 mL of 1N NaOH, then extracted with ethyl acetate. The aqueous layer was then acidified with 2N HCl to pH 2 and extracted 3× with ethyl acetate, after which the extract was dried over Na2SO4, filtered and the filtrate evaporated. The residue was pumped on high vacuum, after which it was recrystallized from Et2O/hexanes in two crops to give the title compound. NMR (300 MHZ, CD3OD): δ 7.22 (m, Ph, 5H), 4.38 (dd, Phe-α, 1H), 4.00 (q, CH3CH2OCOPhe, 2H), 3.17 (dd, Phe-β, 1H), 2.90 (dd, Phe-α, 1H), 1.17 (t, CH3CH2 OCOPhe, 3H).

reactant | phenylalanine | 30 mmole, 4.96 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | water | O | H2O
reactant | K2CO3 | 30 mmole, 4.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl chloroformate | 30 mmole, 2.87 mL | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | EtOCO-Phe | C(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C12H15NO4
